US04436753
To a solution (200 ml) of 6-(11-hydroxy-1-oxoundecyl)-2,3-dimethoxy-5-methylphenol (14 g) in acetic acid is added 5% palladium-on-carbon (50% hydrate; 3 g) and 70% perchloric acid (0.1 ml), and catalytic reduction is carried out at ambient temperature and atmospheric pressure. After completion of the absorption of hydrogen, the catalyst is filtered off and the filtrate is concentrated under reduced pressure. The residue is extracted with dichloromethane, and the dichloromethane layer is washed with 5% aqueous sodium bicarbonate and dried over anhydrous sodium sulfate. Removal of the solvent by distillation gives a colorless oil of 6-(11-acetoxyundecyl)-2,3-dimethoxy-5-methylphenol (15 g).

reactant | 6-(11-hydroxy-1-oxoundecyl)-2,3-dimethoxy-5-methylphenol | 200 ml, 14 g | OCCCCCCCCCCC(=O)C1=C(C=C(C(=C1O)OC)OC)C | C20H32O5
reactant | perchloric acid | 0.1 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | palladium-on-carbon | 3 g | [Pd] | Pd
product | 6-(11-acetoxyundecyl)-2,3-dimethoxy-5-methylphenol | 15 g | C(C)(=O)OCCCCCCCCCCCC1=C(C=C(C(=C1O)OC)OC)C | C22H36O5
